US06436923B1
B. N-(3,4-Dichlorophenyl)-2-[3-(phenylmethoxy)phenyl]acetamide
To a solution of N-(3,4-dichlorophenyl)-2-(3-hydroxyphenyl)acetamide (5.5 g, 0.019 mol) in DMF (25 ml) was added potassium carbonate powder (3.93 g, 0.028 mol). To the flask was added benzyl bromide (2.37 ml, 0.021 mol). The reaction was allowed to stir overnight. Solvent was removed and the reaction was diluted with ethyl acetate. The organic layer was washed with water, dried over MgSO4, filtered and concentrated. The crude product was triturated with ether and hexanes to provide the title compound (4.65 g, 64% yield): ES-MS (m/z) 386 [M+H]+.

reactant | N-(3,4-dichlorophenyl)-2-(3-hydroxyphenyl)acetamide | 0.019 mol, 5.5 g | ClC=1C=C(C=CC1Cl)NC(CC1=CC(=CC=C1)O)=O | C14H11Cl2NO2
reactant | potassium carbonate | 0.028 mol, 3.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.021 mol, 2.37 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-(3,4-Dichlorophenyl)-2-[3-(phenylmethoxy)phenyl]acetamide | 4.65 g, 64% yield | ClC=1C=C(C=CC1Cl)NC(CC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C21H17Cl2NO2
